US05047577
In a reaction vessel was placed 42.8 grams of 2-bromoethyl acetate, 58.9 grams of tetradecyldimethylamine and 107.6 grams of methylethyl ketone (MEK) solvent. The mixtures was refluxed (ca. 90° C.) under nitrogen with stirring for 7 hours. The reaction mixture was cooled and the solvent decanted leaving as the product tetradecyldimethyl 2-acetyloxyethylammonium bromide.

reactant | 2-bromoethyl acetate | 42.8 grams | C(C)(=O)OCCBr | C4H7BrO2
reactant | tetradecyldimethylamine | 58.9 grams | C(CCCCCCCCCCCCC)N(C)C | C16H35N
solvent | methylethyl ketone | 107.6 grams | CC(=O)CC | C4H8O
product | tetradecyldimethyl 2-acetyloxyethylammonium bromide | [Br-].C(CCCCCCCCCCCCC)[N+](CCOC(C)=O)(C)C | InChI=1S/C20H42NO2.BrH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-21(3,4)18-19-23-20(2)22;/h5-19H2,1-4H3;1H/q+1;/p-1
